US07230020B2
Synthesis of 3-chloro-2-methyl-N-quinoxalin-6-yl-benzenesulfonamide, STX 957
To a solution of 3-chloro-2-methylbenzenesulphonyl chloride (147 mg, 0.651 mmol) in dichloromethane (4 mL) was added pyridine (125 μL, 1.55 mmol) and the mixture was stirred under N2 for 5 min, after which time 6-aminoquinoxaline (90 mg, 0.62 mmol) was added. The resulting mixture was stirred for 5 h at room temperature, then saturated NaHCO3 solution (10 mL) was added and the mixture was extracted into ethyl acetate (20 mL). The organic phase was washed with brine, dried (Na2SO4), filtered and evaporated to give a residue that was purified using flash chromatography to afford a pale yellow solid (180 mg, 87%), single spot at Rf 0.60 (ethyl acetate). mp 166.5-166.9° C., HPLC purity 99+% (tR 2.15 min in 10% water-acetonitrile). 1H NMR (CDCl3): δ 8.77 (1H, d, J=1.7 Hz), 8.74 (1H, d, J=1.7 Hz), 8.06 (1H, d, J=8.2 Hz), 8.00 (1H, d, J=9.2 Hz), 7.66 (1H, d, J=2.5 Hz), 7.56 (1H, d, J=7.9 Hz), 7.50 (1H, dd, J=9.1, 2.6 Hz), 7.28-7.22 (1H, obscured under CHCl3), 2.76 (3H, s). LCMS: 332.24 (M−). FAB-MS (MH+, C15H12ClN3O2S): calcd 334.0417, found 334.0433.

reactant | 3-chloro-2-methylbenzenesulphonyl chloride | 0.651 mmol, 147 mg | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
reactant | pyridine | 1.55 mmol, 125 μL | N1=CC=CC=C1 | C5H5N
reactant | 6-aminoquinoxaline | 0.62 mmol, 90 mg | NC=1C=C2N=CC=NC2=CC1 | C8H7N3
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 3-chloro-2-methyl-N-quinoxalin-6-yl-benzenesulfonamide | 180 mg, 87% | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1C=C2N=CC=NC2=CC1)C | C15H12ClN3O2S
